US07576091B2
2-Methyl-5,6-dihydro-4H-benzothiazol-7-one
w To a solution of 2-bromo-cyclohexane-1,3-dione (20 g, 0.105 mol) in pyridine (150 mL) was added thioacetamide (7.9 g, 0.105 mol) and the mixture was stirred at 50° C. After 16 h the solvent was removed under vacuum. 10% aq NaCl solution (150 mL) was added and the product was extracted with CH2Cl2 (4×100 mL). The organic extracts were washed with additional 10% aq NaCl solution (2×100 mL) before being dried, filtered, and concentrated under vacuum. The dark viscous oil obtained was purified using a Kugelrohr distillation unit to afford the product as a yellow oil (6.97 g, 40%): 1H-NMR (CDCl3): δ 3.02 (t, 2H, J 6.1, CH2), 2.75 (s, 3H, CH3), 2.61 (t, 2H, J 6.1, CH2), 2.21 (qu, 2H, J 6.1, CH2). 13C-NMR (CDCl3): δ 192.1, 173.3, 166.8, 130.9, 37.8, 27.1, 23.1, 20.0. MS (ESI+): m/z 168.03 (M+H)+.

reactant | 2-bromo-cyclohexane-1,3-dione | 0.105 mol, 20 g | BrC1C(CCCC1=O)=O | C6H7BrO2
reactant | thioacetamide | 0.105 mol, 7.9 g | C(C)(=S)N | C2H5NS
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | 2-Methyl-5,6-dihydro-4H-benzothiazol-7-one | 6.97 g, 40% | CC=1SC2=C(N1)CCCC2=O | C8H9NOS
